US04952583
A mixture of 9.65 g (52.2 mmol) of 3-chloro-4-(1,1-dimethylethyl)phenol and 7.37 g (52.2 mmol) of hexamethylenetetramine was refluxed in 150 ml of trifluoroacetic acid for 3 hours. The solution was cooled to ambient temperature and diluted with 500 ml of water. The aqueous residue was extracted with ether. The organic phase was washed with saturated sodium bicarbonate solution, dried and evaporated. The residue was chromatographed on 250 g of silica gel using a gradient from hexane to 20:80 (v/v) ether: hexane as eluent. There was obtained 1.87 g (8.79 mmol, 17%) of 2-hydroxy-4-chloro-5-(1,1-dimethylethyl)benzaldehyde; mp 38°-39° C.

reactant | 3-chloro-4-(1,1-dimethylethyl)phenol | 52.2 mmol, 9.65 g | ClC=1C=C(C=CC1C(C)(C)C)O | C10H13ClO
reactant | hexamethylenetetramine | 52.2 mmol, 7.37 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 500 ml | O | H2O
product | 2-hydroxy-4-chloro-5-(1,1-dimethylethyl)benzaldehyde | 8.79 mmol, 1.87 g, 17% | OC1=C(C=O)C=C(C(=C1)Cl)C(C)(C)C | C11H13ClO2
